US06824882B2
To a mixture of 18.00 g of 6-(nonafluorobutyl)-1-hexanol and 225 mL of 48 weight percent hydrobromic acid was slowly added 23 mL of concentrated sulfuric acid. The reaction mixture was heated at 100° C. for 12 hr and poured into 1 liter of water. The mixture was extracted with hexanes, and the combined organic phases were then washed with saturated aqueous sodium bicarbonate and dried over anhydrous magnesium sulfate. The hexanes solution was concentrated to a light amber liquid, which was eluted through 2 inches (5 cm) of silica with hexanes. Concentration of the eluent yielded a light amber liquid, and bulb-to-bulb distillation gave 18.29 g of 1-bromo-6-(nonafluorobutyl)hexane as a clear, colorless liquid, b.p. 70-80° C. at 0.05 torr (7 Pa).

reactant | 6-(nonafluorobutyl)-1-hexanol | 18.00 g | FC(C(C(CCCCCCO)(F)F)(F)F)(C(F)(F)F)F | C10H13F9O
reactant | hydrobromic acid | Br | BrH
reactant | sulfuric acid | 23 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 1 liter | O | H2O
product | 1-bromo-6-(nonafluorobutyl)hexane | 18.29 g | BrCCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C10H12BrF9
